US05623074
1.0 g of α-(aminomethyl)-3,4-dimethoxybenzyl alcohol hydrochloride was suspended in 5 ml of methanol, and after adding thereto 0.85 g of 2,3-dimethoxybenzaldehyde, 0.63 ml of triethylamine was added dropwise to the mixture while stirring at room temperature. The mixture was heated under reflux for 30 minutes, and 0.24 g of sodium boron hydride was added slowly to the mixture while stirring under ice cooling. After the foaming stopped, the mixture was concentrated. The residue was subjected to a separating procedure with chloroform and water, the chloroform layer was collected, washed with water, and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was recrystallized from ethyl acetate-n-hexane, giving 1.07 g of α-[[2,3-dimethoxybenzyl)amino]methyl]-3,4-dimethoxybenzyl alcohol, m.p. 96°-97° C.

reactant | α-(aminomethyl)-3,4-dimethoxybenzyl alcohol hydrochloride | 1.0 g | Cl.NCC(C1=CC(=C(C=C1)OC)OC)O
reactant | 2,3-dimethoxybenzaldehyde | 0.85 g | COC1=C(C=O)C=CC=C1OC | C9H10O3
reactant | triethylamine | 0.63 ml | C(C)N(CC)CC | C6H15N
reactant | sodium boron hydride | 0.24 g | B.[Na]
solvent | methanol | 5 ml | CO | CH4O
product | 3,4-dimethoxybenzyl alcohol | COC=1C=C(CO)C=CC1OC | C9H12O3
